US07411091B2
4-(2-Fluoro-benzyloxy)-3-methoxy-benzaldehyde
0.5M solution of 1-bromomethyl-2-fluoro-benzene (1.5 mg, 8 mmol) in DMF was added dropwise to a suspension of 3-methoxy-4-hydroxy-benzaldehyde (1.1 g, 7.3 mmol), K2CO3 (1.51 g, 11 mmol) and KI (120 mg, 7.3 mmol) in DMF (100 ml). The reaction mixture was treated as described in Example 4. The residue was purified on silica gel, obtaining 1.89 g (quantitative yield) of the title compound, yield 100%.

reactant | 1-bromomethyl-2-fluoro-benzene | 8 mmol, 1.5 mg | BrCC1=C(C=CC=C1)F | C7H6BrF
reactant | 3-methoxy-4-hydroxy-benzaldehyde | 7.3 mmol, 1.1 g | COC=1C=C(C=O)C=CC1O | C8H8O3
reactant | K2CO3 | 11 mmol, 1.51 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(2-Fluoro-benzyloxy)-3-methoxy-benzaldehyde | 1.89 g, quantitative yield | FC1=C(COC2=C(C=C(C=O)C=C2)OC)C=CC=C1 | C15H13FO3
